US06130333
Step 1: Preparation of 2-(1,3-benzodioxol-5-yl)-1H-benzimidazole
A solution of 50 g (0.34 mol) of piperonal and 37 g (0.34 mol) of phenylenediamine in 0.3 L of nitrobenzene was stirred under reflux for 12 hours. The resulting mixture was concentrated in vacuo. The solid residue was collected via filtration, and rinsed with ether to give 39.6 g (49%) of desired material as an off-white solid: 1H NMR (CDCl3) δ 5.96 (s, 2H), 6.79 (d, J=8.5 Hz, 1H), 7.17-7.30 (m, 2H), 7.50-7.65 (m, 4H), 8.80-9.40 (br s, 1H).

reactant | piperonal | 0.34 mol, 50 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | phenylenediamine | 0.34 mol, 37 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | nitrobenzene | 0.3 L | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-(1,3-benzodioxol-5-yl)-1H-benzimidazole | 39.6 g, 49% | O1COC2=C1C=CC(=C2)C2=NC1=C(N2)C=CC=C1 | C14H10N2O2
